US05834493
3-trifluoromethyl-N-(2-chloroethylcarbonyl)-aniline
The title compound was prepared according to the known Schotten-Baumann procedure using 3-(trifluoromethyl)-aniline and 3-chloro-propionyl chloride.

reactant | 3-(trifluoromethyl)-aniline | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | 3-chloro-propionyl chloride | ClCCC(=O)Cl | C3H4Cl2O
product | 3-trifluoromethyl-N-(2-chloroethylcarbonyl)-aniline | FC(C=1C=C(NC(=O)CCCl)C=CC1)(F)F | C10H9ClF3NO
